* ===================================================================
* egan.lib -- Behavioural enhancement-mode GaN HEMT model
* Target: EPC2010C-class device (200 V, ~25 mOhm, Vth ~1.4 V)
*
* WHY BEHAVIOURAL: vendor SPICE subcircuits are LTspice-dialect and
* not portable to Spectre.  This model is written from datasheet
* quantities only, and is deliberately SYMMETRIC in the channel so
* that third-quadrant (reverse) conduction falls out of the physics
* instead of being bolted on.  GaN has no body diode: reverse
* conduction is channel conduction, and its drop is
*        V_SD = Vth + |V_GS,off| + I*Rds(on)
* which is exactly what the symmetric square law below produces.
* That coupling -- negative off-bias buys crosstalk margin and pays
* for it in dead-time conduction loss -- is the physical core of the
* whole project, so it must not be an approximation.
* ===================================================================

* smooth max(x,0) -- keeps the Newton solver happy at the kink
.func smax(x) {0.5*(x+sqrt(x*x+1e-4))}

* --- junction capacitances, realised as non-conducting diodes -------
* IS=1e-30 AND N=40 => no current at any bias we see.  N is large on
* purpose: with N=1 the gate-drain "capacitor" forward-conducts once
* V_G > V_D (i.e. whenever the device is ON) and clamps the gate.
* We want ONLY the C(V) law here.
* to ngspice, LTspice and Spectre, unlike behavioural C= expressions.
.model DGD D(IS=1e-30 N=40 CJO=150p VJ=1.0 M=0.65 FC=0.5)  $ Crss (Miller)
.model DDS D(IS=1e-30 N=40 CJO=800p VJ=1.0 M=0.5  FC=0.5)  $ Coss-Crss

.subckt EGAN d g s params: vth=1.4 bh=5.55 rg=0.4 cgs=350p lg=0.3n ls=0.15n

* package / bond inductance
Lgint  g   gi  {lg}
Lsint  s   si  {ls}

* internal gate resistance
Rgint  gi  g2  {rg}

* --- symmetric square-law channel ----------------------------------
* I = bh * [ smax(Vgs-Vth)^2 - smax(Vgd-Vth)^2 ]
*   Vgd > Vth with Vds < 0  =>  reverse conduction, automatically.
Bch d si I = {bh} * ( smax(v(g2,si)-{vth})*smax(v(g2,si)-{vth})
+                   - smax(v(g2,d) -{vth})*smax(v(g2,d) -{vth}) )

* --- capacitances ---------------------------------------------------
Cgs   g2  si  {cgs}
* THIS IS NOT THE SAME LAW AS egan.lib's DIODES, AND THAT IS THE POINT.
* Under reverse bias -- where the victim device sits during the crosstalk
* event -- both give C0/(1+u)^m and agree. Under FORWARD bias they part: a
* SPICE diode applies its FC extrapolation above FC*VJ = 0.5 V and its
* capacitance keeps climbing, while this form saturates at C0. The aggressor
* device is forward-biased through its own turn-on, so the two give it
* different Cgd, different slew, and different coupling.
* scripts/capmodel_check.py measures exactly that, and finds the constant-word
* margin changes sign between them: -0.249 V with diodes, +0.115 V here. The
* shipped configuration is safe under both with over 2.5 V of room. Read that
* as a sensitivity, not as one model being wrong.
*
* WRITTEN AS CHARGE, NOT AS CAPACITANCE, AND WHY.
* These two were C={...} expressions and two of the three decks that use
* this model would not start: "Timestep too small; initial timepoint;
* trouble with node hstop", at the FIRST timepoint, on dpt_dcload_c.cir and
* dpt_sky130_c.cir. Raising itl1, itl4 and gmin changed nothing, which is
* the tell: it was never solver effort.
*
* A C= behavioural capacitor asks ngspice to build the charge itself from a
* capacitance that moves with the voltage it is trying to solve for. Q= hands
* it the charge directly and lets it differentiate, which is exact and
* monotonic and is what the device equations actually want.
*
* The charge is the integral of the same C(V) law, so the physics is
* unchanged:
*     C(u) = C0 / (1+u)^m        =>  Q(u) = C0 [ (1+u)^(1-m) - 1 ] / (1-m)
* with u = 0.5*(v + sqrt(v^2+1e-4)), a smooth max(v,0) so the junction is not
* driven into a fractional power of a negative number. Node order is n1 = d
* so that Q is the charge on the drain side and the sign of dQ/dV is right.
*
*   Cgd  C0 = 150p, m = 0.65  ->  (1-m) = 0.35
*   Cds  C0 = 800p, m = 0.50  ->  (1-m) = 0.50
*
* THE SECOND TERM IS NOT DECORATION. u is a smooth max(V,0), so du/dV falls to
* zero under forward bias and the first term's derivative -- the capacitance --
* falls to zero with it. The C= form did not do that: at V < 0 it sits at the
* full C0. Getting this wrong makes the Miller capacitance VANISH exactly when
* the device is on, and dpt_c.cir, which had always run, stopped converging at
* 20 ps. C0*(V-u) is a smooth min(V,0); it contributes nothing above zero bias
* and restores the missing C0 slope below it, so the law is the same one the
* C= expression implemented, everywhere.
Cgd   d   g2  Q={(150p/0.35)*(pow(1+0.5*(v(d,g2)+sqrt(v(d,g2)*v(d,g2)+1e-4)),0.35)-1)
+                + 150p*0.5*(v(d,g2)-sqrt(v(d,g2)*v(d,g2)+1e-4))}
Cds   d   si  Q={(800p/0.50)*(pow(1+0.5*(v(d,si)+sqrt(v(d,si)*v(d,si)+1e-4)),0.50)-1)
+                + 800p*0.5*(v(d,si)-sqrt(v(d,si)*v(d,si)+1e-4))}

.ends EGAN
